US06369221B1
8-Trifluoromethoxy-2,3,4,5-tetrahydro-[1,5]-enzothiazepine may be prepared in the following manner: a solution of 2.5 g of 8-trifluoromethoxy-2,3-dihydro-5H-[1,5]benzothiazepin-4-one in 25 ml of tetrahydrofuran is added dropwise over 15 minutes to 21.4 ml of an approximately 0.5 M solution of lithium tetrahydroaluminate in tetrahydrofuran, kept under argon at 5° C. The reaction mixture is then stirred for 2 hours at 20° C. and 500 ml of distilled water, 100 ml of ethyl acetate and 100 ml of a saturated sodium chloride solution are added successively. After decantation, the aqueous phase is extracted three times with 50 ml of ethyl acetate. The organic extracts are combined, dried over magnesium sulphate and concentrated to dryness under reduced pressure (2 kPa). 2 g of 8-trifluoromethoxy-2,3,4,5-tetrahydro-[1,5]benzothiazepine are thus obtained in the form of a yellow oil [1H NMR spectrum in DMSO-d6, T=300K, δin ppm (300 Mhz): 1.95 (2H, m, CH2); 3.00 (2H, m, SCH2); 3.30 (2H, m, NCH2); 5.90 (1H, m, NH); 6.85 (1H, d, J=8 Hz, arom. CH); 7.00 (1H, d, J=8Hz, arom. CH); 7.12 (1H, s, arom. CH)].

reactant | 8-trifluoromethoxy-2,3-dihydro-5H-[1,5]benzothiazepin-4-one | 2.5 g | FC(OC1=CC2=C(NC(CCS2)=O)C=C1)(F)F | C10H8F3NO2S
reactant | lithium tetrahydroaluminate | [AlH4-].[Li+]
reactant | water | 500 ml | O | H2O
reactant | sodium chloride | 100 ml | [Cl-].[Na+]
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 8-trifluoromethoxy-2,3,4,5-tetrahydro-[1,5]benzothiazepine | 2 g | FC(OC1=CC2=C(NCCCS2)C=C1)(F)F | C10H10F3NOS
